US05859014
substituting 1-(4-fluoro-2-methoxyphenyl)piperazine and 2-(3-chloropropyl)-6-methyl-4-[2-(trimethylsilyl)ethoxymethyl]-1,2,4-triazine-3,5(2H,4H)-dione gave 2-{3-[4-(4-fluoro-2-methoxyphenyl)piperazin-1-yl]propyl}-6-methyl-4-[2-(trimethylsilyl)ethoxymethyl]-1,2,4-triazine-3,5(2H,4H)-dione;

reactant | 1-(4-fluoro-2-methoxyphenyl)piperazine | FC1=CC(=C(C=C1)N1CCNCC1)OC | C11H15FN2O
reactant | 2-(3-chloropropyl)-6-methyl-4-[2-(trimethylsilyl)ethoxymethyl]-1,2,4-triazine-3,5(2H,4H)-dione | ClCCCN1N=C(C(N(C1=O)COCC[Si](C)(C)C)=O)C | C13H24ClN3O3Si
product | 2-{3-[4-(4-fluoro-2-methoxyphenyl)piperazin-1-yl]propyl}-6-methyl-4-[2-(trimethylsilyl)ethoxymethyl]-1,2,4-triazine-3,5(2H,4H)-dione | FC1=CC(=C(C=C1)N1CCN(CC1)CCCN1N=C(C(N(C1=O)COCC[Si](C)(C)C)=O)C)OC | C24H38FN5O4Si
